US09062044B2
Step A: (1S,6R)-tert-Butyl 8-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate.
To 2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoic acid (406 mg, 1.5 mmol) in PhCH3 (5 mL) was added SOCl2 (117 μL, 1.6 mmol). The flask was heated with an oil bath to 50° C. for 1 h. To (1S,6R)-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3-carboxylate (260 mg, 1.3 mmol) and Na2CO3 (519 mg, 4.9 mmol) in PhCH3 (5 mL) and H2O (5 mL) at 0° C. was added the above solution dropwise. The reaction was allowed to warm slowly to rt and stir for 15 h and extracted with DCM (2×). The combined organics were dried (Na2SO4). Purification via silica gel chromatography (1-7% 2M NH3/MeOH in CH2Cl2) gave 335 mg (68%) of the title compound. MS (ESI) mass calcd. C20H24FN5O3, 401.44; m/z found 346.1 [M−C(CH3)3]+.

reactant | 2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoic acid | 1.5 mmol, 406 mg | FC1=C(C(=O)O)C(=CC=C1)N1N=CC=N1 | C9H6FN3O2
reactant | SOCl2 | 1.6 mmol, 117 μL | O=S(Cl)Cl | Cl2OS
reactant | (1S,6R)-tert-butyl 3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 1.3 mmol, 260 mg | [C@H]12CN(CC[C@@H]2CN1)C(=O)OC(C)(C)C | C11H20N2O2
reactant | Na2CO3 | 4.9 mmol, 519 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | PhCH3 | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | PhCH3 | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 5 mL | O | H2O
product | (1S,6R)-tert-Butyl 8-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)-3,8-diazabicyclo[4.2.0]octane-3-carboxylate | 335 mg, 68% | FC1=C(C(=O)N2C[C@H]3CCN(C[C@@H]23)C(=O)OC(C)(C)C)C(=CC=C1)N1N=CC=N1 | C20H24FN5O3
